US04722929
8-(2-Methoxy-4-aminocarbonyl-phenyl)-1H,3H-purin-2,6-dione
A quantity of 2.3 gm of 8-(2-methoxy-4-carboxy-phenyl)-1H,-3H-purin-2,6-dione are refluxed for one hour in 50 ml of thionyl chloride with the addition of 1 drop of dimethylformamide. The excess thionyl chloride is drawn off, and the residue is stirred for 16 hours at ambient temperature with a solution of ammonia in dimethylformamide. The dimethylformamide is drawn off, the remainder is mixed with water and acidified with glacial acetic acid, and the product precipitated is filtered off.

reactant | 8-(2-methoxy-4-carboxy-phenyl)-1H,-3H-purin-2,6-dione | 2.3 gm | COC1=C(C=CC(=C1)C(=O)O)C1=NC=2NC(NC(C2N1)=O)=O | C13H10N4O5
reactant | ammonia | N | H3N
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(2-Methoxy-4-aminocarbonyl-phenyl)-1H,3H-purin-2,6-dione | COC1=C(C=CC(=C1)C(=O)N)C1=NC=2NC(NC(C2N1)=O)=O | C13H11N5O4
